US09102591B2
To a mixture of 2-methylpyrimidine-5-carbaldehyde (1.0 g, 8.2 mmol) and triisopropoxymethane (2.3 g, 12 mmol) in isopropanol (15 ml) was added methanesulfonic acid (0.079 g, 0.053 ml, 0.819 mmol). The reaction was stirred at room temperature for 23 hours. Potassium carbonate (1.132 g, 8.19 mmol) was added and the mixture was filtered and the solution was concentrated in vacuo. The crude mixture was purified by flash chromatography to yield 5-(diisopropoxymethyl)-2-methylpyrimidine (536 mg, 29%)

reactant | 2-methylpyrimidine-5-carbaldehyde | 8.2 mmol, 1.0 g | CC1=NC=C(C=N1)C=O | C6H6N2O
reactant | triisopropoxymethane | 12 mmol, 2.3 g | C(C)(C)OC(OC(C)C)OC(C)C | C10H22O3
reactant | methanesulfonic acid | 0.819 mmol, 0.053 ml, 0.079 g | CS(=O)(=O)O | CH4O3S
reactant | Potassium carbonate | 8.19 mmol, 1.132 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 5-(diisopropoxymethyl)-2-methylpyrimidine | 536 mg, 29% | C(C)(C)OC(C=1C=NC(=NC1)C)OC(C)C | C12H20N2O2
